US08486962B2
A solution of 2-phenyl thiazole (200 mg, 1.24 mmol) in conc. sulphuric acid (0.5 ml) was cooled to 0° C. The nitrating mixture (made up of 0.5 ml of conc. nitric acid and 0.5 ml of conc. sulfuric acid) was added dropwise and stirred at 0° C. for 1 hr. The reaction was quenched with ice water and basified with sodium hydroxide solution. The resultant precipitate was filtered and washed with water. Purification by column chromatography over silica gel using EtOAc/pet ether gave 2-(4-nitrophenyl) thiazole (150 mg, 58.6%) as solid.

reactant | 2-phenyl thiazole | 1.24 mmol, 200 mg | C1(=CC=CC=C1)C=1SC=CN1 | C9H7NS
reactant | nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4-nitrophenyl) thiazole | 150 mg, 58.6% | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC=CN1 | C9H6N2O2S
